US09388189B2
(S)-4-Amino-N-(5-carbamoyl-2-hydroxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide
(S)-4-Amino-N-(5-carbamoyl-2-methoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide (400 mg, 49% purity, 0.35 mmol) was treated with boron tribromide (1M in dichloromethane, 1.1 ml, 1 mmol) in dichloromethane (8 ml) according to the method described in Example 23. The residue was purified by reverse phase using SP1® Purification System to give 10 mg (5% yield) as a solid. Purity 90%.

reactant | (S)-4-Amino-N-(5-carbamoyl-2-methoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 0.35 mmol, 400 mg | NC1=NC=NC(=C1C(=O)NC1=C(C=CC(=C1)C(N)=O)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C28H27N9O4
reactant | boron tribromide | 1 mmol, 1M, 1.1 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (S)-4-Amino-N-(5-carbamoyl-2-hydroxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 5% yield | NC1=NC=NC(=C1C(=O)NC1=C(C=CC(=C1)C(N)=O)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C27H25N9O4
